US04937251
2-[3-[(5-Bromopentyl)oxy]propyl]pyridine
From 2-pyridinepropanol (5 g) and 1,5-dibromopentane (24.83 g), stirring the reaction mixture under nitrogen for 5 h, and using ethyl acetate for extraction. FCC eluting with cyclohexane→cyclohexane-ethyl acetate (9:1) gave the title compound as a yellow oil (5.5 g), t.l.c. (cyclohexane-ethyl acetate 9:1) Rf 0.15.

reactant | 2-pyridinepropanol | 5 g | N1=C(C=CC=C1)CCCO | C8H11NO
reactant | 1,5-dibromopentane | 24.83 g | BrCCCCCBr | C5H10Br2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[3-[(5-Bromopentyl)oxy]propyl]pyridine | 5.5 g | BrCCCCCOCCCC1=NC=CC=C1 | C13H20BrNO
